US08877780B2
5.14 6-(2-OXO-OXAZOLIDIN-3-YL)-HEXANOIC ACID [2-(2,6-DIOXO-PIPERIDIN-3-YL)-1,3-DIOXO-2,3-DIHYDRO-1H-ISOINDOL-5-YL-METHYL]-AMIDE
DBU (1.2 g, 8.1 mmol) was added to a stirred suspension of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (1.0 g, 3.1 mmol) in acetonitrile (35 mL), resulting in the formation of a clear solution. The mixture was stirred at room temperature for 10 minutes, and then, 6-(2-oxo-oxazolidin-3-yl)-hexanoic acid (2.0 g, 10 mmol) and HOBt (0.5 g, 3.7 mmol) were added, followed by EDC (0.89 g, 4.7 mmol). After stirring for an additional 16 hours, the mixture was evaporated under vacuum. The residue was partitioned between ethyl acetate (50 mL) and water (100 mL), and the aqueous phase was extracted with ethyl acetate (3×50 mL). The combined organic layers were evaporated. The residue was chromatographed on silica, using a methylene chloride-methanol gradient, eluting 0.61 g of the product at 93:7 methylene chloride-methanol, in 42% yield; mp 178-180° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 mL/min, 240 nm, 25/75 CH3CN/0.1% H3PO4, 3.36 (98.33%); 1H NMR (DMSO-d6) δ 1.26-1.28 (m, 2H), 1.43-1.61 (m, 4H), 2.04-2.08 (m, 1H), 2.18 (t, J=7.4 Hz, 2H), 2.46-2.63 (m, 2H), 2.83-2.96 (m, 1H), 3.12 (t, J=7.1 Hz, 2H), 3.49 (t, J=8.0 Hz, 2H), 4.42 (t, J=8.0 Hz, 2H), 4.43 (d, J=5.8 Hz, 2H), 5.15 (dd, J=12.9 Hz, J=5.4 Hz, 1H), 7.72-7.77 (m, 2H), 7.89 (d, J=7.8 Hz, 1H), 8.51 (t, J=5.8 Hz, 1H), 11.12 (s, 1H); 13C NMR (DMSO-d6) δ 22.0, 24.8, 25.7, 26.4, 30.9, 35.1, 41.9, 43.3, 43.8, 49.0, 61.5, 121.8, 123.5, 129.7, 131.6, 133.3, 147.8, 157.8, 167.0, 167.1, 169.8, 172.4, 172.7; Anal. Calcd for C23H26N4O7+0.3H2O: C, 58.05; H, 5.63; N, 11.77. Found: C, 58.05; H, 5.42; N, 11.62.

reactant | DBU | 8.1 mmol, 1.2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.1 mmol, 1.0 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 6-(2-oxo-oxazolidin-3-yl)-hexanoic acid | 10 mmol, 2.0 g | O=C1OCCN1CCCCCC(=O)O | C9H15NO4
reactant | HOBt | 3.7 mmol, 0.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 4.7 mmol, 0.89 g
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 6-(2-OXO-OXAZOLIDIN-3-YL)-HEXANOIC ACID [2-(2,6-DIOXO-PIPERIDIN-3-YL)-1,3-DIOXO-2,3-DIHYDRO-1H-ISOINDOL-5-YL-METHYL]-AMIDE | 42% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(CCCCCN1C(OCC1)=O)=O)=O)=O | C23H26N4O7
